**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET C3M0075120J Spice Library 
****	Version 2.0 Date: 11-27-2017
****	Version 3.0 Date: 01-22-2018
****	Version 4.0 Date: 06-19-2018
****	Version 5.0 Date: 08-02-2019
***********************************************************
****	Revision record
****	Version 1	Initial Release
****	Version 2	Include Tc at gmos subcircuit
****	Version 3	This spice model is compatible to both Ltspice and Orcad Pspsice
****	Version 4	Update the thermal RC model
****	Version 5	Update datasheet version A 07-2019 and excluded reactive power loss
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S1 = Kelvin Source
****S2,S3,S4,S5,S6 = Power Source
***********************************************************

.subckt C3M0075120J d g s1 s2 s3 s4 s5 s6 Tj Tc
.param Rgint = 9
xgmos	d3 d1 g1 s Tj Tc gmos_C3M0075120J
.param Rs = 300

Rg1		g		ga		22.03m
Rg_eq		gb		ga		20
RS1		s1		s1a		6.862m
RS2		s2		s2a		0.4616m
RS3		s3		s3a		0.4616m
RS4		s4		s4a		0.4616m
RS5		s5		s5a		0.4616m
RS6		s6		s6a		0.4616m
Rd		d		da		0.01166m

Lg1		gb		g2		7.79n
Ls1		s1a		s_e		6.744n
Ls2		s2a		s_c		2.5n
Ls3		s3a		s_c		2.5n
Ls4		s4a		s_c		2.5n
Ls5		s5a		s_c		2.5n
Ls6		s6a		s_c		2.5n
Ld 		da		d3      	1.505n

*RPg   ga		g3		595
*RP1   s1a		s1b		{Rs}
*RP2   s2a		s_c		{Rs}
*RP3   s3a		s_c		{Rs}
*RP4   s4a		s_c		{Rs}
*RP5   s5a		s_c		{Rs}
*RP6   s6a		s_c		{Rs}
*RPd   da		d3		8.8

R_g 		g1	g2	{Rgint}

R_S		S_C	S_d	1.929m
L_s		S_d	S_e	1.4n
R_ss		s_e	s_f	0.213m
L_ss		s_f	s	0.377n

*R_PLS		S_d	s	{Rs}

vdrain_s	d3	d1	0
Gheat		0	Tj	value {abs((V(d1,s)*I(Vdrain_s)))+abs((V(g1,g2)*V(g1,g2)/Rgint))}

xCGD		d3	g1	cgdmos_C3M0075120J
CGS		g1	s	1388p
D1		s	d1	bodydiode_C3M0075120J
xCDS		dk	s	cds_C3M0075120J
R_ds		d3	dk	100

R0 N1 Tj 23.89m
R1 N2 N1 51.78m
R2 N3 N2 416.2m
R3 Tc N3 606m
C0 Tj 0 408u
C1 N1 0 1.235m
C2 N2 0 3.526m
C3 N3 0 146.7m

.ends C3M0075120J

*****************************************

.subckt gmos_C3M0075120J d3 d1 g1 s Tj Tc 

e1		NET1	0	Value {Limit(((997.8n*V(Tj)**3-167.2u*V(Tj)**2+2.679m*V(Tj)-97.69m)*V(gk,s)**4+
+				(-48.54u*V(Tj)**3+7.754m*V(Tj)**2-69.85m*V(Tj)+2.697)*V(gk,s)**3+
+				(839.1u*V(Tj)**3-0.1254*V(Tj)**2-0.1785*V(Tj)+1.003)*V(gk,s)**2+
+				(-6.049m*V(Tj)**3+0.8158*V(Tj)**2+15.49*V(Tj)-400.7)*v(gk,s)+
+				(15.16m*V(Tj)**3-1.738*V(Tj)**2-88.88*V(Tj)+3393))/1000,0.01,15)
+					}
R_a		NET1	0 	1E6

e2		NET2	0	Value {15.35m*V(gk,s)+371.85m}
R_B		NET2	0 	1E6

e3		NET3	0	Value {8u*(V(Tj)**2)-4.7m*V(Tj)+2.8224}
R_C		NET3	0 	1E6

*e4		NET4	0	value {0.007}
e4		NET4	0	Value {92.345n*V(Tj)**2-35.295u*V(Tj)+4.792m}
R_d		NET4	0 	1E6

*e5		NET5	0	value {0.035}

e5		NET5   0	Value {
+					if (V(gk,s)>11 ,
*+				(-0.9267*V(gk,s)**3+49.313*V(gk,s)**2-877.727*V(gk,s)+5351.268)/10000
+				((87.641n*V(Tj)**3+46.001u*V(Tj)**2-15.03m*V(Tj)-0.13539)*V(gk,s)**3+
+				(-4.7725u*V(Tj)**3-2.0118m*V(Tj)**2+0.69225*V(Tj)+13.826)*V(gk,s)**2+
+				(86.016u*V(Tj)**3+27.876m*V(Tj)**2-10.322*V(Tj)-366.33)*v(gk,s)+
+				(-496.9u*V(Tj)**3-0.12272*V(Tj)**2+49.167*V(Tj)+3084.3))/10000
+					,
+					if (V(gk,s)<=11 & V(gk,s)>9,
*+				(15*V(gk,s)**2-245*V(gk,s)+1470)/10000
+				((8.3091u*V(Tj)**3+1.2517m*V(Tj)**2-0.30635*V(Tj)-4.25318)*(V(gk,s)**2)+
+				(-166.98u*V(Tj)**3-21.874m*V(Tj)**2+4.7236*V(Tj)+53.187)*v(gk,s)+
+				(821.34u*V(Tj)**3+90.986m*V(Tj)**2-15.564*V(Tj)+475.4))/10000
+					,
*+				(13.958*V(gk,s)**2-158.333*V(gk,s)+774.375)/10000
+				((-8.337u*V(Tj)**3+1.507m*V(Tj)**2-94.69m*V(Tj)+2.806)*(V(gk,s)**2)+
+				(92.64u*V(Tj)**3-16.24m*V(Tj)**2+0.5932*V(Tj)-61.12)*v(gk,s)+
+				(-166.9u*V(Tj)**3+19.64m*V(Tj)**2+4.464*V(Tj)+932.7))/10000
+			)
+			)
+			}
R_e		NET5	0 	1E6

*e10		NET10   0	Value {0.048}
e10		NET10   0	Value {Limit(((-94.87u*V(Tj)**2+25.49m*V(Tj)-0.8726)*(V(gk,s)**3)+
+					(3.038m*V(Tj)**2-0.8788*V(Tj)+35.82)*(V(gk,s)**2)+
+					(-29.94m*V(Tj)**2+9.729*V(Tj)-501.7)*v(gk,s)+
+					(85.19m*V(Tj)**2-34.18*V(Tj)+2452))/1000,0.001,3.7)
+				      }
R_K		NET10	0	1E6

.param p10  = 0.0011
.param p11 = -8
.param p12 = 19
.param p13 = 15

*e_p8	P8	0	Value {0.0122}
e_p8	P8	0	Value {Limit(((95.93n*V(Tj)**3-17.89u*V(Tj)**2+8.478u*V(Tj)+35.59m)*(V(gk,s)**3)+
+				(-4.135u*V(Tj)**3+831u*V(Tj)**2-8.584m*V(Tj)-2.647)*(V(gk,s)**2)+
+				(54.29u*V(Tj)**3-11.48m*V(Tj)**2+0.1753*V(Tj)+51.4)*v(gk,s)+
+				(-216u*V(Tj)**3+46.84m*V(Tj)**2-0.7812*V(Tj)-210.8))/1000,0.001,0.2)
+					}
R_R	P8	0 	1E6

R100 gk s	1E6
E100 gk s 	value {limit(V(g1,s),p11,p12)}


********************************
G1 d1 s value {
+	if(V(s,d3)<0,
+		0
+		,
+		if (V(gk,s)<V(NET3) ,
+		-((0.035)*(v(gk,s)-V(NET3)))*(-(1+p10*v(s,d3))*0.008)*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(0.854*v(s,d3)))))**2))
+		,
+		-((v(NET5)+v(NET4))*(v(gk,s)-V(NET3)))*(1+v(P8)*v(s,d3))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(s,d3)*((1+exp(-v(NET10)*v(s,d3)))**v(NET1))))))**2))
+		)
+			)
+			}
G2 d1 s value {
+	if(V(d3,s)<0,
+		0
+		,
+		if (V(gk,s)<V(NET3) ,
+		((0.035)*(v(gk,s)-V(NET3)))*(-(1+p10*v(d3,s))*0.008)*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(0.854*v(d3,s)))))**2))
+		,
+		((v(NET5)*(v(gk,s)-V(NET3))))*(1+v(P8)*v(d3,s))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(d3,s)*((1+exp(-v(NET10)*v(d3,s)))**v(NET1))))))**2))
+		)
+			)
+			}


.ends gmos_C3M0075120J

****************************************

.subckt cgdmos_C3M0075120J d3 g1
.param k1=555p	
.param k2=0.565		
.param ka=90	
.param kb=0.3	
.param kc=6	
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d3,g1),0,600))*(1+ka*(1+TANH(kb*V(d3,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d3))
+			}
R_CGD d1 d3 1e-4
.ends cgdmos_C3M0075120J

.subckt cds_C3M0075120J dk s

.param Cjo = 1108p
.param Vj  = 4.5
.param M   = 0.63

G12 d1 s value {
+	if(V(dk,s)>0,
+		(Cjo/(1+(limit(v(dk,s),0,460)/Vj)**M))*ddt(v(dk,s));
+		,
+		0
+			)
+			}

R_CDS d1 dk 1E-4

.ends cds_C3M0075120J
****************************************
.model bodydiode_C3M0075120J d(is=100n bv=1590 EG=5.4 n=9.45 
+	rs=0.048 trs1=-650u  trs2=-1.2u Tnom=25
+	tt=3.0n ibv=500u Xti=10 level=1)





